US06583155B2
1-[1-{2-Hydroxy-3-[4-(5-trifluoromethyl-benzothiazol-2-yl)-piperidin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone
A solution of 63 mg (0.22 mmol) 2-piperidin-4-yl-5-trifluoromethyl-benzothiazole was dissolved in 4 mL EtOH and treated with 40 mg (0.11 mmol) of 1-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone. The solution was heated to 60° C. overnight. The solvent was then removed by rotary evaporation and the crude product was purified by column chromatography (silica, 0-10% MeOH/EtOAc) to afford 57 mg (80%) of a white solid. MS (electrospray): exact mass calculated for C31H31F6N5O2S, 651.21; m/z found, 652.2 [M+H]+. 1H NMR (CDCl3, 400 MHz, a mixture of amide rotamers): 8.24 (s, 1H), 7.97 (d, J=8.41 Hz, 1H), 7.78 (d, J=8.41 Hz, 1H), 7.70 (m, 2H), 7.65 (d, J=8.41 Hz, 1H), 7.60 (dd, J=8.41, 1.37 Hz, 1H), 4.88 and 4.76 (A and B of AB quartet, J=15.85 Hz, 1H), 4.66 (br s, 1H), 4.25-4.15 (m, 2H), 4.08-3.99 (m, 1.5H), 3.91-3.83 (m, 0.5H), 3.82-3.68 (m, 1H), 3.16 (tt, J=11.35, 3.52 Hz, 1H), 3.12-3.06 (m, 1H), 3.02-2.97 (m, 1H), 2.9-2.87 (m, 1.4H), 2.87-2.75 (m, 0.6H), 2.55-2.43 (m, 3H), 2.27-2.17 (m, 3H), 2.21 (s, 1.5H), 2.17 (s, 1.5H), 2.04-1.87 (m, 2H).

reactant | 2-piperidin-4-yl-5-trifluoromethyl-benzothiazole | 0.22 mmol, 63 mg | N1CCC(CC1)C=1SC2=C(N1)C=C(C=C2)C(F)(F)F | C13H13F3N2S
reactant | 1-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 0.11 mmol, 40 mg | O1C(C1)CN1N=C(C=2CN(CCC21)C(C)=O)C2=CC=C(C=C2)C(F)(F)F | C18H18F3N3O2
solvent | EtOH | 4 mL | CCO | C2H6O
product | 1-[1-{2-Hydroxy-3-[4-(5-trifluoromethyl-benzothiazol-2-yl)-piperidin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 57 mg, 80% | OC(CN1N=C(C=2CN(CCC21)C(C)=O)C2=CC=C(C=C2)C(F)(F)F)CN2CCC(CC2)C=2SC1=C(N2)C=C(C=C1)C(F)(F)F | C31H31F6N5O2S
